US06114361
Step D: (2R, 4S)-4-(4-Methoxyphenyl)-5-oxopyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
A stock solution containing 12.0 grams of periodic acid and chromium trioxide (24 mg) in wet acetonitrile (0.75 volume % water) was prepared. A portion of this solution (9.6 mL) was added to a solution of (3S, 5R)-5-hydroxymethyl-3-(4-methoxyphenyl)-2-oxopyrrolidine-1-carboxylic acid tert-butyl ester (510 mg, 1.58 mmol) in wet acetonitrile (0.75 volume % water) at 0° C. The reaction mixture was stirred at 0° C. for 2 hours and then quenched by addition of a solution of dibasic sodium phosphate (1.2 grams) in water (20 mL). The mixture was extracted with ethyl acetate and the organic extract was washed with aqueous sodium bisulfite solution and brine. After drying over magnesium sulfate, the solvent was evaporated to provide the title compound as a white solid, 518 mg (98%).

reactant | periodic acid | 12.0 grams | I(=O)(=O)(=O)O | HIO4
reactant | (3S, 5R)-5-hydroxymethyl-3-(4-methoxyphenyl)-2-oxopyrrolidine-1-carboxylic acid tert-butyl ester | 1.58 mmol, 510 mg | C(C)(C)(C)OC(=O)N1C([C@@H](C[C@@H]1CO)C1=CC=C(C=C1)OC)=O | C17H23NO5
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | chromium trioxide | 24 mg | [O-2].[O-2].[O-2].[Cr+6]
product | (2R, 4S)-4-(4-Methoxyphenyl)-5-oxopyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1=O)C1=CC=C(C=C1)OC)C(=O)O | C17H21NO6
